US05101048
Preparation of 4-(4-cyanophenyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 14a)
If the procedure described in Preparation I is followed starting from 2.3 g (10.9.10-3 mol) of 4-(4-mercaptophenyl)benzonitrile, 4.26 g (11.9.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide and 2.75 g (10.9.10-3 mol) of mercuric cyanide (Hg(CN)2), 0.540 g (yield: 10%) of the expected product is obtained after purification by flash chromatography using methylene chloride as the eluent.

reactant | 4-(4-mercaptophenyl)benzonitrile | 2.3 g | SC1=CC=C(C=C1)C1=CC=C(C#N)C=C1 | C13H9NS
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 4.26 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | Hg(CN)2 | 2.75 g | [Hg](C#N)C#N
product | 4-(4-cyanophenyl)phenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 0.540 g, yield: 10% | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)C2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C24H23NO6S2
